US06103718
E. (cis)-2-(3-Cyclopentyloxy-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid
A solution of 100 mmol of 1-Bromo-3-cyclopentyloxy-4-methoxybenzene in tetrahydrofuran was added slowly to a mixture of 1.1 equivalent of magnesium. After complete addition, the mixture was refluxed for 5 h and left at room temperature for additional 18 h. The mixture was added slowly to a solution of (cis)-1,2,3,6-tetrahydrophthalic anhydride in tetrahydrofuran at 0° C. After complete addition the mixture was refluxed for 6 h and left at room temperature for addition 18 h after which the reaction was quenched with ammonium chloride and the solvent removed under reduced pressure. The residue was acidified with concentrated hydrochloric acid and the mixture extracted with diethyl ether. The organic layer was dried over magnesium sulfate and evaporated. The residue was dissolved in dichloromethane and the solution filtered over silica. After evaporating this dichloromethane solution, the compound was crystallized from diethyl ether. M.p. 114-115° C.

reactant | 1-Bromo-3-cyclopentyloxy-4-methoxybenzene | 100 mmol | BrC1=CC(=C(C=C1)OC)OC1CCCC1 | C12H15BrO2
reactant | magnesium | 1.1 equivalent | [Mg] | Mg
reactant | (cis)-1,2,3,6-tetrahydrophthalic anhydride | C1([C@H]2[C@@H](C(=O)O1)CC=CC2)=O | C8H8O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (cis)-2-(3-Cyclopentyloxy-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic acid | C1(CCCC1)OC=1C=C(C(=O)[C@@H]2[C@H](C(=O)O)CC=CC2)C=CC1OC | C20H24O5
